US04666510
Sodium hydroxide (60%, 0.86 g; 22 mmole) was added to a stirred solution of 5-(3-acetyl-2,4,6-trimethylphenyl)-3-hydroxycyclohex-2-en-1-one (500 g; 20 mmole) in dimethylformamide (100 ml) at 60° C. After 15 minutes propionic anhydride (2.58 g; 22 mmole) was added and the mixture was heated at 110°-120° C. for 3 hours. The mixture was then poured into water (300 ml) and extracted with diethyl ether (2×100 ml). The ether extracts were dried over anhydrous sodium sulfate and the solvent was removed by evaporation under reduced pressure. The residue was purified by chromatography over silica gel (eluant dichloromethane) to give 5-(3-acetyl-2,4,6-trimethylphenyl)-3-hydroxy-2-propionyl-cyclohex-2-en-1-one (2.36 g; 37.8%) as an orange oil. The product was characterized by proton magnetic resonance spectroscopy and the spectroscopic data is reported in Table 4, Example 36.

reactant | Sodium hydroxide | 22 mmole, 0.86 g | [OH-].[Na+]
reactant | 5-(3-acetyl-2,4,6-trimethylphenyl)-3-hydroxycyclohex-2-en-1-one | 20 mmole, 500 g | C(C)(=O)C=1C(=C(C(=CC1C)C)C1CC(=CC(C1)=O)O)C | C17H20O3
reactant | propionic anhydride | 22 mmole, 2.58 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-(3-acetyl-2,4,6-trimethylphenyl)-3-hydroxy-2-propionyl-cyclohex-2-en-1-one | 2.36 g, 37.8% | C(C)(=O)C=1C(=C(C(=CC1C)C)C1CC(=C(C(C1)=O)C(CC)=O)O)C | C20H24O4
